US07524847B2
4-[3-Benzyl-7-bromo-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-car boxylic acid t-butyl ester
Sodium bicarbonate (0.029 g) and N-bromosuccinimide (0.044 g) were added to a solution of 4-[3-benzyl-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-carboxylic acid t-butyl ester (0.121 g) in acetonitrile (5 mL). This was then stirred at room temperature for 15 hours. Ethyl acetate (100 mL) and water (50 mL) were added, and the organic layer was dried over anhydrous magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was purified by silica gel chromatography, and the hexane:ethyl acetate 7:3 fraction gave the title compound (0.148 g).

reactant | Sodium bicarbonate | 0.029 g | C([O-])(O)=O.[Na+]
reactant | N-bromosuccinimide | 0.044 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-[3-benzyl-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-carboxylic acid t-butyl ester | 0.121 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=C1N(C(N2CC2=C(C=CC=C2)C#N)=O)CC2=CC=CC=C2 | C30H32N6O3
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 4-[3-Benzyl-7-bromo-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-car boxylic acid t-butyl ester | 0.148 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C2=C1N(C(N2CC2=C(C=CC=C2)C#N)=O)CC2=CC=CC=C2)Br | C30H31BrN6O3
